US09447106B2
Step 1, 2, 3: 5-Amino-3-(4-(benzyloxy)phenyl)-1H-pyrazole-4-carbonitrile
The desired product was prepared from 4-(benzyloxy)benzoic acid according to the procedures similar to those (step 1 to 3) for 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile under appropriate conditions recognized by one of ordinary skill in the art. 1H NMR (400 MHz, DMSO-d6) δ 12.01 (s, 1H), 7.72 (d, J=8.8 Hz, 2H), 7.50-7.44 (m, 2H), 7.44-7.37 (m, 2H), 7.36-7.32 (m, 1H), 7.11 (d, J=7.2 Hz, 2H), 6.39 (br s, 2H) and 5.16 (s, 2H).

reactant | 4-(benzyloxy)benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
product | 5-Amino-3-(4-(benzyloxy)phenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C#N | C17H14N4O
